US06156700
Preparation of m-Fluorophenyl acetate
A solution of 3-fluorophenol (100 g, 0.890 mol) in methylene chloride is cooled to 0° C. to 5° C., treated with pyridine (75.0 mL, 0.930 mol), stirred for several minutes, treated dropwise with acetyl chloride (66.0 mL, 0.930 mol) while maintaining the reaction mixture temperature below 17° C., stirred at ice-bath temperature for two hours, warmed to room temperature, and poured into an ice-water mixture. The organic phase is separated, washed with brine, dried over anhydrous magnesium sulfate, and concentrated in vacuo to obtain the title product as a yellow oil which is identified by 1H NMR spectral analysis.

reactant | 3-fluorophenol | 0.890 mol, 100 g | FC=1C=C(C=CC1)O | C6H5FO
reactant | pyridine | 0.930 mol, 75.0 mL | N1=CC=CC=C1 | C5H5N
reactant | acetyl chloride | 0.930 mol, 66.0 mL | C(C)(=O)Cl | C2H3ClO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | m-Fluorophenyl acetate | C(C)(=O)OC1=CC(=CC=C1)F | C8H7FO2
